US04920116
2-Azido-1-(3,4,5-trimethoxyphenyl)ethanone
In a manner similar to Preparation 3 react 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone with NaN3 to obtain the title compound.

reactant | 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
product | 2-Azido-1-(3,4,5-trimethoxyphenyl)ethanone | N(=[N+]=[N-])CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13N3O4
